US08865891B2
SPDP/DTT Modification of Streptavidin.
SPDP-modified/DTT-reduced streptavidin is mixed with SMCC-modified BLA (equimolar ratio) and allowed to react for 1-2 hrs RT (or overnight at 4 degrees). The streptavidin-BLA conjugate product is purified by gel filtration over P-60 resin.

reactant | SPDP | C1CC(=O)N(C1=O)OC(=O)CCSSC2=CC=CC=N2 | C12H12N2O4S2
reactant | DTT | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | SMCC | C1CC(CCC1CN2C(=O)C=CC2=O)C(=O)ON3C(=O)CCC3=O | C16H18N2O6
product | SPDP DTT | C1CC(=O)N(C1=O)OC(=O)CCSSC2=CC=CC=N2.C([C@H]([C@@H](CS)O)O)S | InChI=1S/C12H12N2O4S2.C4H10O2S2/c15-10-4-5-11(16)14(10)18-12(17)6-8-19-20-9-3-1-2-7-13-9;5-3(1-7)4(6)2-8/h1-3,7H,4-6,8H2;3-8H,1-2H2/t;3-,4-/m.1/s1
